US09326987B2
6-(Chloromethyl)-N-[6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazol-4-yl]-2-pyridinecarboxamide
To solution of 6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazol-4-amine (1.37 g) in chloroform (30 ml) at 0° C. was added DIPEA (1.232 ml). 6-(Chloromethyl)-2-pyridinecarbonyl chloride (1.519 g, crude) in chloroform (15 ml) was added dropwise and the mixture was stirred at 0° C. for 15 min. Water (30 ml) was added and the mixture was extracted with DCM (50 ml), separating the layers by hydrophobic frit.

reactant | 6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazol-4-amine | 1.37 g | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=CC=C1)N | C21H16N4O2S
reactant | DIPEA | 1.232 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-(Chloromethyl)-2-pyridinecarbonyl chloride | 1.519 g | ClCC1=CC=CC(=N1)C(=O)Cl | C7H5Cl2NO
reactant | Water | 30 ml | O | H2O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(Chloromethyl)-N-[6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazol-4-yl]-2-pyridinecarboxamide | ClCC1=CC=CC(=N1)C(=O)NC1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C28H20ClN5O3S
